US08357711B2
3-Fluoro-4-[(1,2,4-thiadiazol-5-ylamino)sulfonyl]benzoic acid
N-(2,4-dimethoxybenzyl)-1,2,4-thiadiazol-5-amine (Preparation 26, 500 mg, 2.1 mmol, 1.0 eq) was dissolved in THF (10 ml) and cooled to −78° C. 1,1,1,3,3,3-Hexanemethyldisilazane lithium salt (LiHMDS, 1M in THF, 4.2 ml, 4.19 mmol, 2.0 eq) was added dropwise and the reaction mixture stirred for a further 10 minutes. A solution of 4-(chlorosulfonyl)-3-fluorobenzoic acid (Preparation 9, 500 mg, 2.1 mmol, 1 eq) in THF (3 ml) was added dropwise and the reaction mixture stirred at −78° C. for 1 hour then at room temperature for 18 hours. The reaction mixture was diluted with brine, extracted into ethyl acetate, dried over sodium sulphate, filtered and evaporated in vacuo. The crude material was passed through a SCX cartridge to remove remaining amine. The material was redissolved in 4M HCl in dioxane and stirred at room temperature for 2 hours. The resulting precipitate was collected by filtration and washed with diethylether to yield the title compound (100 mg, 0.33 mmol, 16%).

reactant | N-(2,4-dimethoxybenzyl)-1,2,4-thiadiazol-5-amine | 2.1 mmol, 500 mg, 1.0 eq | COC1=C(CNC2=NC=NS2)C=CC(=C1)OC | C11H13N3O2S
reactant | lithium | 4.19 mmol, 1M, 4.2 ml, 2.0 eq | [Li] | Li
reactant | 4-(chlorosulfonyl)-3-fluorobenzoic acid | 2.1 mmol, 500 mg, 1 eq | ClS(=O)(=O)C1=C(C=C(C(=O)O)C=C1)F | C7H4ClFO4S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 3-Fluoro-4-[(1,2,4-thiadiazol-5-ylamino)sulfonyl]benzoic acid | 0.33 mmol, 100 mg, 16% | FC=1C=C(C(=O)O)C=CC1S(=O)(=O)NC1=NC=NS1 | C9H6FN3O4S2
